datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH:10][H].[H][NH+:21]=[C:20]([O][H])[NH]C.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([O][H])[NH]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][H])([S]C)[O]C.[Cl-]>>[Cl-].CC[O:10][H].[H][O+:21]=[C:20]([S]C)[O]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)C1=CC=CC=C1 10=20;20,21=21"
"[OH:10]C(C=CC=C1)=C1C([H])C([C:20](OCC)=[OH+:21])O>>[OH:21][C:20]2(OCC)C(C([H])C3=C([OH+:10]2)C=CC=C3)O 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OCC)C1=CC=CC=C1>>[Li][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OC1=CC=CC=C1)OCC 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)[H]>>[Li][O:21][H].[C:20](=[O:10])(OCC)OC1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[O-:10]C([H])C(C)C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C(C)C([H])[O:10]1 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[S]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CCCCCC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(O[H])OC1=CC=CC=C1)C1=CC=CC=C1>>[K][O:21]C1=CC=CC=C1.[C:20](=[O:10])(O[H])OC1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"C[NH:10][H].[H][NH+:21]=[C:20]([NH]C)[O]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21][H])([NH]C)[O]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21]C)([S]C)[O]CC.[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([S]C)[O]CC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([Na])C(CC)C([H])=C1C>>[O:10]([Na])C(CC)/C([H])=C([C:20]([H])=[O:21])/C 21=20;20,10=10"
"[H][S:10]C(C)C(C)[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
